US07781443B2
(2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-formylpyridin-3-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (118 mg) is dissolved in tetrahydrofuran (1.5 ml), then thereto is added 1M-diisobutylaluminum hydride-tetrahydrofuran solution (0.33 ml) dropwise under ice-cooling and the mixture is stirred for 1 hours under nitrogen flow under ice-cooling. A aqueous saturated ammonium chloride solution is added to the reaction mixture and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=1:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-hydroxymethylpyridin-3-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (84 mg). MS (m/z): 691 [M+H]+

reactant | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-formylpyridin-3-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 118 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1C=NC=C(C1)C=O)CC | C33H30F6N6O4
reactant | diisobutylaluminum hydride tetrahydrofuran | 0.33 ml | [H-].C(C(C)C)[Al+]CC(C)C.O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-hydroxymethylpyridin-3-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 84 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1C=NC=C(C1)CO)CC | C33H32F6N6O4
